US07465726B2
(3-Methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride
To a suspension of 4-[4-(3-methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (488 mg, 1.10 mmol) in MeOH (10 mL) was added hydrogen chloride (9M in MeOH, 2.15 mL, 19.4 mmol), the mixture was stirred at rt for 3 h and concentrated in vacuo. The residue was triturated with Et2O and dried in vacuo to give the title compound. MS (ES+): m/z 347.12 (10) [MH+]. HPLC: tR(polar—5 mins)=1.52 min (ZQ2000, polar—5 min). A purified sample was made by Gilson HPLC to record the 1H NMR spectrum. 1H NMR (DMSO-d6, 400 MHz): δ=2.34 (s, 3H), 2.47 (brs, 2H), 3.12 (brs, 2H), 3.60 (brs, 2H), 6.29 (s, 1H), 6.92 (s, 1H), 7.07 (s, 1H), 7.19 (s, 1H), 7.25 (d, 1H, J=8.4 Hz), 7.40 (d, 1H, J=8.4 Hz), 7.75 (s, 1H), 8.06 (s, 1H), 9.27 (brs, 1H), 12.73 (brs 1H).

reactant | 4-[4-(3-methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.10 mmol, 488 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C(=NNC3=CC2)C)N1 | C24H27N7O2
reactant | hydrogen chloride | 19.4 mmol, 9M, 2.15 mL | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | (3-Methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | Cl.Cl.Cl.CC1=NNC2=CC=C(C=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2 | InChI=1S/C19H19N7.3ClH/c1-11-14-8-13(2-3-16(14)26-25-11)23-18-15-9-17(12-4-6-20-7-5-12)24-19(15)22-10-21-18;;;/h2-4,8-10,20H,5-7H2,1H3,(H,25,26)(H2,21,22,23,24);3*1H
